2149-03-21 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2149-3-20**] 09:00 AM
 NUCLEAR MEDICINE - At [**2149-3-20**] 09:10 AM
 ULTRASOUND - At [**2149-3-20**] 01:56 PM
 ENDOSCOPY - At [**2149-3-20**] 02:56 PM
   Extubated at 0630
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2149-3-20**] 04:00 AM
   Erythromycin - [**2149-3-20**] 02:11 PM
   Ceftazidime - [**2149-3-21**] 04:01 AM
   Azithromycin - [**2149-3-21**] 05:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-21**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.7
   HR: 73 (54 - 82) bpm
   BP: 130/47(64) {71/33(42) - 135/79(92)} mmHg
   RR: 11 (5 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  5,267 mL
                                                                    991 mL
   PO:
             TF:
   IVF:
                                                                  4,005 mL
                                                                    671 mL
   Blood products:
                                                                  1,112 mL
   Total out:
                                                                  2,740 mL
                                                                  1,400 mL
   Urine:
                                                                  2,740 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,527 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 343 (343 - 343) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 10.6 L/min
   Physical Examination
   Gen: NAD, breathing easily s/p extubation, AOx2 (thinks we are at home)
   CTA
   S1 S1
   Soft NT ND
   Labs / Radiology
   108 K/uL
   9.9 g/dL
   106 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   47 mg/dL
   112 mEq/L
   144 mEq/L
   29.6 %
   5.9 K/uL
        [image002.jpg]
   - Tagged RBC scan: no active bleeding seen
   - Bronchoscopy: unrevealing for bronchoalveolar hemorrhage
   - RUQ U/S: TIPS patent, ascites unchanged
   - Q4 hr Hct's: 27.5 (7 am) -> 27.6 (12 pm) -> 24.9 (4 pm) -> 2 units
   pRBCs -> 29.6
   - Repeat EGD: Hard palate ulcer, localized erosions GE junction c/w
   mild esophagitis. Coffee ground heme in fundus of stomach. No active
   bleeding.
                             [**2149-3-20**]  06:53 AM
                             [**2149-3-20**]  11:46 AM
                             [**2149-3-20**]  04:01 PM
                             [**2149-3-20**]  11:50 PM
                             [**2149-3-21**]  04:25 AM
   WBC
   5.9
   Hct
   27.5
   27.6
   24.9
   29.4
   29.6
   Plt
   108
   Cr
   1.7
   Glucose
   106
   Other labs: PT / PTT / INR:13.6/33.9/1.2, ALT / AST:30/69, Alk Phos / T
   Bili:90/1.5, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   58 year old man with history of EtOH cirrhosis, diagnosed [**9-/2147**], c/b
   encephalopathy, ascites and hepatic hydronephrosis, s/p TIPS [**1-/2148**], no
   known varices, hepatoma on recent MRI, who was admitted from clinic
   with confusion/word finding difficulties, recent productive cough.
   # Respiratory: Extubated this AM, doing well.
   - Monitor
   #Hemetemesis: Patient's source of bleeding is unclear, though he
   appears to have a possible oral source but amount of blood and clots is
   concerning for variceal bleed.  EGD unrevealing, ENT laryngoscope
   unrevealing, no blood coming out ETT so not consistent with tracheal
   source howver, patient continues to have bright red blood in his mouth.
   -2 units PRBCs
   -type and crossmatch for 4 more
   -repeat HCT
   -Tagged RBC scan, if no sign of bleeding could consider extubating.
   -Protonix gtt for now
   -CTX to cover for ?variceal bleed (and to cover PNA with Azithro and to
   cover possible SBP)
   -keep patient intubated to protect airway until bleeding source found
   -bronch to ensure bleeding not coming from lung
   .
   # AMS: Most likely hepatic encephalopathy, as this is consistent with
   his prior presentations of encephalopathy. Possible due to GI bleeding,
   also possibly infectious etiology - pt with recent productive cough and
   CXR showed possible retrocardiac opacity. SBP unlikely as no ascites
   and no abdominal pain, but it is possible. Pt has also been managing
   his own medications recently which may not be working with his mental
   status.  No recent head trauma or fall and neuro exam intact.
   - Ceftriaxone/Azithro for CAP
   - RUQ U/S to eval for clot, ascites, TIPS velocities (decreased on last
   study in [**2-2**])
   - f/u UA, UCx, BCx
   - CTX as above to cover SBP
   - Lactulose, Rifaximin when able to take PO meds
   .
   # EtOH Cirrhosis: Diagnosed [**9-/2147**], c/b encephalopathy, ascites
   and hepatic hydronephrosis, s/p TIPS [**1-/2148**], no known varices, hepatoma
   on recent MRI. On the transplant list.
   - Lactulose, Rifaximin  when able to take PO
   -spironolactone/Lasix when clear that there is no GI bleed and BP
   stable.
   .
   # COPD: Mild wheezing on exam
   - Alb/Atrovent nebs q6h and Albuterol prn
   - Fluticasone-Salmeterol inh [**Hospital1 **]
   .
   # DM2: Diet controlled
   - ISS while hospitalized
   .
   # Hypothyroidism:
   - Continue Levothyroxine when taking PO
   .
   # GERD:
   - now on IV PPI
   .
   # Depression:
   - Continue Wellbutrin, Venlafaxine, Methylphenidate when able to take
   PO
   - SW c/s
   .
   # FEN: replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, lactulose
   # ACCESS: PIV
   # CODE: FULL
   # CONTACT: Wife [**Name (NI) **]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-20**] 04:36 AM
   18 Gauge - [**2149-3-20**] 04:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-03-22 08:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2149-3-21**] 04:58 PM
   .
   [**3-20**]:
   - Tagged RBC scan: no active bleeding seen
   - Bronchoscopy: unrevealing for bronchoalveolar hemorrhage
   - RUQ U/S: TIPS patent, ascites unchanged
   - Q4 hr Hct's: 27.5 (7 am) -> 27.6 (12 pm) -> 24.9 (4 pm) -> 2 units
   pRBCs ->
   - Repeat EGD: Hard palate ulcer, localized erosions GE junction c/w
   mild esophagitis. Coffee ground heme in fundus of stomach. No active
   bleeding.
   - Aim to extubate
   - Try to load with lactulose now
   [**3-21**]:
   - Effexor, wellbutrin restarted
   - Serial hct's: 30.8 -> 30.9 -> 32.5
   - Bedside ultrasound: no ascites to tap
   - Further bleeding from mouth; asked both GI and ENT to see patient;
   could not visualize bleed. Plan: afrin x 3 days. CT neck to evaluate
   for tumor/mass/AVM (non contrast, given [**Last Name (un) **])
   [**3-22**]:
   - Hypernatremic to 152; started D5W at 200 cc hr for free H20 deficit
   of 5.7 liters
   - Intermittent bloody secretions from mouth, open sore noted on tongue
   - NGT for meds onl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2149-3-20**] 02:11 PM
   Ceftazidime - [**2149-3-21**] 04:01 AM
   Ceftriaxone - [**2149-3-22**] 04:09 AM
   Azithromycin - [**2149-3-22**] 06:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-3-22**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-22**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 75 (64 - 81) bpm
   BP: 125/60(78) {95/29(47) - 148/67(85)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.5 kg (admission): 109.7 kg
   Height: 69 Inch
             Total In:
                                                                  2,186 mL
                                                                    702 mL
   PO:
             TF:
   IVF:
                                                                  1,016 mL
                                                                    642 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  3,610 mL
   Urine:
                                                                  2,900 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -714 mL
                                                                 -2,908 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: )
   Abdominal: Soft, Non-tender, Distended, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   104 K/uL
   10.3 g/dL
   124 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   35 mg/dL
   121 mEq/L
   152 mEq/L
   31.7 %
   7.2 K/uL
         [image002.jpg]
                             [**2149-3-20**]  06:53 AM
                             [**2149-3-20**]  11:46 AM
                             [**2149-3-20**]  04:01 PM
                             [**2149-3-20**]  11:50 PM
                             [**2149-3-21**]  04:25 AM
                             [**2149-3-21**]  08:16 AM
                             [**2149-3-21**]  02:54 PM
                             [**2149-3-21**]  11:29 PM
                             [**2149-3-22**]  05:50 AM
   WBC
   5.9
   7.4
   7.2
   Hct
   27.5
   27.6
   24.9
   29.4
   29.6
   30.8
   30.9
   32.5
   31.7
   Plt
   108
   113
   104
   Cr
   1.7
   1.5
   Glucose
   106
   124
   Other labs: PT / PTT / INR:14.5/33.7/1.3, ALT / AST:33/64, Alk Phos / T
   Bili:97/1.2, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   58 year old man with history of EtOH cirrhosis, diagnosed [**9-/2147**], c/b
   encephalopathy, ascites and hepatic hydronephrosis, s/p TIPS [**1-/2148**], no
   known varices, hepatoma on recent MRI, who was admitted from clinic
   with confusion/word finding difficulties, recent productive cough.
   Extubated yesterday, doing well.
   .
   #Hemetemesis: Patient's source of bleeding is unclear, though he
   appears to have a possible oral source but amount of blood and clots
   concerning for variceal bleed; does have ulcer on tongue.  EGD
   unrevealing, ENT laryngoscope unrevealing, no blood coming out ETT so
   not consistent with tracheal source howver, patient continues to have
   bright red blood in his mouth intermittently.
   - HCT [**Hospital1 **] given stability after 2 units pRBC yesterday
   - Active type and cross
   - IV PPI [**Hospital1 **]
   -CTX to cover for ?variceal bleed (and possible SBP although unlikely
   .
   # CAP: New RLL opacity on CXR
   - C/w ceftriaxone and azithromycin (day 2/?[**9-2**])
   .
   # AMS: Likely hepatic encephalopathy, c/w prior presentations of
   altered MS. Possibly due to GI bleeding vs infectious etiology - pt
   with recent productive cough and CXR showed possible retrocardiac
   opacity. SBP unlikely as no ascites and no abdominal pain, but it is
   possible.
   - Ceftriaxone/Azithro for CAP (day [**2149-3-3**])
   - f/u UA, UCx, BCx
   - CTX as above to cover SBP
   - Lactulose, Rifaximin with titration to 4 bowel movements daily
   .
   # EtOH Cirrhosis: Diagnosed [**9-/2147**], c/b encephalopathy, ascites
   and hepatic hydronephrosis, s/p TIPS [**1-/2148**], no known varices, hepatoma
   on recent MRI. On the transplant list.
   - Lactulose, Rifaximin  when able to take PO
   -spironolactone/Lasix when clear that there is no GI bleed and BP
   stable.
   - Consider paracentesis if sufficient ascites
   .
   # COPD: Mild wheezing on exam
   - Alb/Atrovent nebs q6h and Albuterol prn
   - Fluticasone-Salmeterol inh [**Hospital1 **]
   .
   # DM2: Diet controlled
   - ISS while hospitalized
   .
   # Hypothyroidism:  Continue Levothyroxine when taking PO
   .
   # GERD:  now on IV PPI
   .
   # Depression:
   - Continue Wellbutrin, Venlafaxine, Methylphenidate
   - SW c/s
   .
   # FEN: replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, lactulose
   # ACCESS: PIV x3
   # CODE: FULL
   # CONTACT: Wife [**Name (NI) **]
   # DISPO: ICU; consider call out to hepatorenal service if mental status
   stable/improves
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-20**] 04:36 AM
   18 Gauge - [**2149-3-20**] 04:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-03-22 11:29:00 Physician Attending Progress Note
Chief Complaint: hemorrhage from mouth
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with cirrhosis, h/o tips.  Recurrent bleeding from mouth,
   unclear source, but EGD with no evidence of GIB - only old blood.
   24 Hour Events:
 ENDOSCOPY - At [**2149-3-21**] 04:58 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2149-3-20**] 02:11 PM
   Ceftazidime - [**2149-3-21**] 04:01 AM
   Ceftriaxone - [**2149-3-22**] 04:09 AM
   Azithromycin - [**2149-3-22**] 06:10 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-3-22**] 09:01 AM
   Pantoprazole (Protonix) - [**2149-3-22**] 09:56 AM
   Other medications:
   SSI
   advair
   atrovent/albuterol
   laculose
   rifaxamin
   azithro
   thiamine
   levoxyl
   afrin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2149-3-22**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.5
   HR: 92 (66 - 92) bpm
   BP: 142/88(100) {95/44(64) - 148/88(100)} mmHg
   RR: 19 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.5 kg (admission): 109.7 kg
   Height: 69 Inch
             Total In:
                                                                  2,186 mL
                                                                  1,552 mL
   PO:
             TF:
   IVF:
                                                                  1,016 mL
                                                                  1,252 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  3,820 mL
   Urine:
                                                                  2,900 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -714 mL
                                                                 -2,268 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): name only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.3 g/dL
   104 K/uL
   124 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.6 mEq/L
   35 mg/dL
   121 mEq/L
   151 mEq/L
   31.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2149-3-20**]  06:53 AM
                             [**2149-3-20**]  11:46 AM
                             [**2149-3-20**]  04:01 PM
                             [**2149-3-20**]  11:50 PM
                             [**2149-3-21**]  04:25 AM
                             [**2149-3-21**]  08:16 AM
                             [**2149-3-21**]  02:54 PM
                             [**2149-3-21**]  11:29 PM
                             [**2149-3-22**]  05:50 AM
   WBC
   5.9
   7.4
   7.2
   Hct
   27.5
   27.6
   24.9
   29.4
   29.6
   30.8
   30.9
   32.5
   31.7
   Plt
   108
   113
   104
   Cr
   1.7
   1.5
   Glucose
   106
   124
   Other labs: PT / PTT / INR:14.5/33.7/1.3, ALT / AST:33/64, Alk Phos / T
   Bili:97/1.2, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   hemorrhage:  likely source is oropharynx given stool has been
   negative.  Have not been able to identify definitive source.  currently
   watchful waiting,
   CAP:  Had RLL opacity on CXR.  on azithro/ctx.
   delirium/encephalopathy:  due to cirrhosis/tips.  Continue to treat
   infections, lactulose and rifaxamin.  treat hypernatremia
   hypernatremia: increase free water.
   ICU Care
   Nutrition:
   Comments: start TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-20**] 04:36 AM
   18 Gauge - [**2149-3-20**] 04:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2149-03-23 08:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   [**3-22**]:
   - Hypernatremic to 152; started D5W at 200 cc hr for free H20 deficit
   of 5.7 liters; 151 --> 149. Increased free water with tube feeds
   - CT head/neck (final): 1. No abnormal neck mass noted within the
   limits of non-contrast CT. 2. No acute malalignment of the cervical
   spine.
   - Liver recs: continue the course
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2149-3-20**] 02:11 PM
   Ceftazidime - [**2149-3-21**] 04:01 AM
   Azithromycin - [**2149-3-22**] 06:10 AM
   Ceftriaxone - [**2149-3-23**] 04:30 AM
   Acyclovir - [**2149-3-23**] 05:52 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2149-3-22**] 09:01 AM
   Pantoprazole (Protonix) - [**2149-3-23**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-23**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 67 (66 - 105) bpm
   BP: 110/45(61) {104/45(61) - 174/88(100)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.5 kg (admission): 109.7 kg
   Height: 71 Inch
             Total In:
                                                                  3,975 mL
                                                                  3,083 mL
   PO:
             2,000 mL
   TF:
                                                                    395 mL
                                                                    511 mL
   IVF:
                                                                  2,850 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  5,390 mL
                                                                  1,495 mL
   Urine:
                                                                  1,390 mL
                                                                    495 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                  1,588 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   9.7 g/dL
   145 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.2 mEq/L
   28 mg/dL
   121 mEq/L
   149 mEq/L
   29.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2149-3-20**]  11:46 AM
                             [**2149-3-20**]  04:01 PM
                             [**2149-3-20**]  11:50 PM
                             [**2149-3-21**]  04:25 AM
                             [**2149-3-21**]  08:16 AM
                             [**2149-3-21**]  02:54 PM
                             [**2149-3-21**]  11:29 PM
                             [**2149-3-22**]  05:50 AM
                             [**2149-3-22**]  08:23 PM
                             [**2149-3-23**]  02:43 AM
   WBC
   5.9
   7.4
   7.2
   7.5
   Hct
   27.6
   24.9
   29.4
   29.6
   30.8
   30.9
   32.5
   31.7
   29.4
   29.2
   Plt
   108
   113
   104
   100
   Cr
   1.7
   1.5
   1.4
   Glucose
   106
   124
   145
   Other labs: PT / PTT / INR:14.2/34.4/1.2, ALT / AST:39/84, Alk Phos / T
   Bili:99/0.9, LDH:298 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   58 year old man with history of EtOH cirrhosis, diagnosed [**9-/2147**], c/b
   encephalopathy, ascites and hepatic hydronephrosis, s/p TIPS [**1-/2148**], no
   known varices, hepatoma on recent MRI, who was admitted from clinic
   with confusion/word finding difficulties, recent productive cough.
   Extubated yesterday, doing well.
   .
   #Hemetemesis: Patient's source of bleeding is unclear, though he
   appears to have a possible oral source but amount of blood and clots
   concerning for variceal bleed; does have ulcer on tongue.  EGD
   unrevealing, ENT laryngoscope unrevealing, no blood coming out ETT so
   not consistent with tracheal source howver, patient continues to have
   bright red blood in his mouth intermittently.
   - HCT daily
   - Active type and screen
   - IV PPI [**Hospital1 **]
 can likely transition to PO today
   .
   # CAP: New RLL opacity on CXR
   - C/w ceftriaxone x7 days, azithromycin x5 days
   .
   # AMS: Likely hepatic encephalopathy, c/w prior presentations of
   altered MS. Possibly due to GI bleeding vs infectious etiology - pt
   with recent productive cough and CXR showed possible retrocardiac
   opacity. SBP unlikely as no ascites and no abdominal pain, but it is
   possible.
   - Ceftriaxone/Azithro for CAP (day [**2149-3-3**])
   - f/u UA, UCx, BCx
   - CTX as above to cover SBP
   - Lactulose, Rifaximin with titration to 4 bowel movements daily
   .
   # Hypernatremia: Responding appropriately to free water infusions, tube
   feed flushes etc
   - PM serum sodium
   - Encourage/liberalize PO free water consumption
   - Include free water flushes from tube feeds in free H20 infusion but
   will pull NGT this morning
   .
   # EtOH Cirrhosis: Diagnosed [**9-/2147**], c/b encephalopathy, ascites, and
   hepatic hydronephrosis, s/p TIPS [**1-/2148**], no known varices, hepatoma on
   recent MRI. On the transplant list.
   - Lactulose, Rifaximin
   - Consider restarting Spironolactone/Lasix now that BP are stable and
   no active bleeding
   - Monitor abdominal exam for need of paracentesis of ascites
    .
   # COPD: Mild wheezing on exam
   - Alb/Atrovent nebs q6h and Albuterol prn
   - Fluticasone-Salmeterol inh [**Hospital1 **]
   .
   # DM2: Diet controlled
   - ISS while hospitalized
   .
   # Hypothyroidism:  Continue Levothyroxine when taking PO
   .
   # GERD:  now on IV PPI
   .
   # Depression: Continue Wellbutrin, Venlafaxine, Methylphenidate
   - SW c/s
   .
   # FEN: replete lytes prn / tube feeds / consider speech & swallow eval
   # PPX: PPI, heparin SQ, lactulose
   # ACCESS: PIV x3
   # CODE: FULL
   # CONTACT: Wife [**Name (NI) **]
   # DISPO: ICU; call out to Hepatorenal Transplant floor
   ICU Care
   Nutrition:
   Ensure (Full) - [**2149-3-23**] 07:56 AM 60 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-3-22**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2149-03-23 11:23:00 Physician Attending Progress Note
Chief Complaint: hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with cirrhosis with recurrent mouth bleeding and
   encephalopathy.  Has done well overnight.
   24 Hour Events:
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2149-3-20**] 02:11 PM
   Ceftazidime - [**2149-3-21**] 04:01 AM
   Azithromycin - [**2149-3-22**] 06:10 AM
   Ceftriaxone - [**2149-3-23**] 04:30 AM
   Acyclovir - [**2149-3-23**] 05:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-3-23**] 08:12 AM
   Other medications:
   SSI
   rifaxamine
   protonix
   folate
   lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No(t) Epistaxis
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Psychiatric / Sleep: No(t) Suicidal, No(t) Delirious
   Flowsheet Data as of  [**2149-3-23**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 68 (66 - 105) bpm
   BP: 114/51(67) {104/45(61) - 174/82(97)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.5 kg (admission): 109.7 kg
   Height: 71 Inch
             Total In:
                                                                  3,975 mL
                                                                  3,286 mL
   PO:
             2,000 mL
   TF:
                                                                    395 mL
                                                                    677 mL
   IVF:
                                                                  2,850 mL
                                                                    388 mL
   Blood products:
   Total out:
                                                                  5,390 mL
                                                                  2,105 mL
   Urine:
                                                                  1,390 mL
                                                                    605 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                  1,500 mL
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                  1,181 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   100 K/uL
   145 mg/dL
   1.4 mg/dL
   21 mEq/L
   3.2 mEq/L
   28 mg/dL
   121 mEq/L
   149 mEq/L
   29.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2149-3-20**]  11:46 AM
                             [**2149-3-20**]  04:01 PM
                             [**2149-3-20**]  11:50 PM
                             [**2149-3-21**]  04:25 AM
                             [**2149-3-21**]  08:16 AM
                             [**2149-3-21**]  02:54 PM
                             [**2149-3-21**]  11:29 PM
                             [**2149-3-22**]  05:50 AM
                             [**2149-3-22**]  08:23 PM
                             [**2149-3-23**]  02:43 AM
   WBC
   5.9
   7.4
   7.2
   7.5
   Hct
   27.6
   24.9
   29.4
   29.6
   30.8
   30.9
   32.5
   31.7
   29.4
   29.2
   Plt
   108
   113
   104
   100
   Cr
   1.7
   1.5
   1.4
   Glucose
   106
   124
   145
   Other labs: PT / PTT / INR:14.2/34.4/1.2, ALT / AST:39/84, Alk Phos / T
   Bili:99/0.9, LDH:298 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Hemmorrhage from mouth:  no further episodes.
   CTX/azithro for CAP.
   encephalopathy:  continue lactulose.  Much better.
   hypernatremia:  Continue to give free water.
   can remove NGT and foley
   ICU Care
   Nutrition:
   Ensure (Full) - [**2149-3-23**] 07:56 AM 60 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-3-22**] 06:50 PM
   20 Gauge - [**2149-3-23**] 08:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2149-03-24 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2149-3-22**] 06:10 AM
   Acyclovir - [**2149-3-23**] 05:52 AM
   Ceftriaxone - [**2149-3-24**] 03:53 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2149-3-23**] 08:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-3-24**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**51**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 61 (61 - 83) bpm
   BP: 91/45(58) {91/34(51) - 116/62(74)} mmHg
   RR: 10 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.5 kg (admission): 109.7 kg
   Height: 71 Inch
             Total In:
                                                                  5,522 mL
                                                                     50 mL
   PO:
                                                                  3,680 mL
             TF:
                                                                    699 mL
   IVF:
                                                                    924 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,355 mL
                                                                    650 mL
   Urine:
                                                                    755 mL
   NG:
   Stool:
                                                                  2,600 mL
                                                                    650 mL
   Drains:
   Balance:
                                                                  2,167 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   10.1 g/dL
   107 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.8 mEq/L
   30 mg/dL
   113 mEq/L
   139 mEq/L
   30.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2149-3-20**]  04:01 PM
                             [**2149-3-20**]  11:50 PM
                             [**2149-3-21**]  04:25 AM
                             [**2149-3-21**]  08:16 AM
                             [**2149-3-21**]  02:54 PM
                             [**2149-3-21**]  11:29 PM
                             [**2149-3-22**]  05:50 AM
                             [**2149-3-22**]  08:23 PM
                             [**2149-3-23**]  02:43 AM
                             [**2149-3-24**]  03:51 AM
   WBC
   5.9
   7.4
   7.2
   7.5
   7.1
   Hct
   24.9
   29.4
   29.6
   30.8
   30.9
   32.5
   31.7
   29.4
   29.2
   30.1
   Plt
   108
   113
   104
   100
   107
   Cr
   1.7
   1.5
   1.4
   1.5
   Glucose
   106
   124
   145
   107
   Other labs: PT / PTT / INR:14.2/34.4/1.2, ALT / AST:39/84, Alk Phos / T
   Bili:99/0.9, LDH:298 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 PNEUMONIA, OTHER
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   58 year old man with history of EtOH cirrhosis, diagnosed [**9-/2147**], c/b
   encephalopathy, ascites and hepatic hydronephrosis, s/p TIPS [**1-/2148**], no
   known varices, hepatoma on recent MRI, who was admitted from clinic
   with confusion/word finding difficulties, recent productive cough.
   Extubated yesterday, doing well.
   #Hemetemesis: Patient's source of bleeding is unclear, though he
   appears to have a possible oral source but amount of blood and clots
   concerning for variceal bleed; does have ulcer on tongue.  EGD
   unrevealing, ENT laryngoscope unrevealing, no blood coming out ETT so
   not consistent with tracheal source howver, patient continues to have
   bright red blood in his mouth intermittently.
   - HCT daily
   - Active type and screen
   - IV PPI [**Hospital1 **]
 can likely transition to PO today
   # CAP: New RLL opacity on CXR
   - C/w ceftriaxone x7 days, azithromycin x5 days
   # AMS: Likely hepatic encephalopathy, c/w prior presentations of
   altered MS. Possibly due to GI bleeding vs infectious etiology - pt
   with recent productive cough and CXR showed possible retrocardiac
   opacity. SBP unlikely as no ascites and no abdominal pain, but it is
   possible.
   - Ceftriaxone/Azithro for CAP (day [**2149-3-3**])
   - f/u UA, UCx, BCx
   - CTX as above to cover SBP
   - Lactulose, Rifaximin with titration to 4 bowel movements daily
   # Hypernatremia: Responding appropriately to free water infusions, tube
   feed flushes etc
   - PM serum sodium
   - Encourage/liberalize PO free water consumption
   - Include free water flushes from tube feeds in free H20 infusion but
   will pull NGT this morning
   # EtOH Cirrhosis: Diagnosed [**9-/2147**], c/b encephalopathy, ascites, and
   hepatic hydronephrosis, s/p TIPS [**1-/2148**], no known varices, hepatoma on
   recent MRI. On the transplant list.
   - Lactulose, Rifaximin
   - Consider restarting Spironolactone/Lasix now that BP are stable and
   no active bleeding
   - Monitor abdominal exam for need of paracentesis of ascites
   # COPD: Mild wheezing on exam
   - Alb/Atrovent nebs q6h and Albuterol prn
   - Fluticasone-Salmeterol inh [**Hospital1 **]
   # DM2: Diet controlled
   - ISS while hospitalized
   # Hypothyroidism:  Continue Levothyroxine when taking PO
   # GERD:  now on IV PPI
   # Depression: Continue Wellbutrin, Venlafaxine, Methylphenidate
   - SW c/s
   # FEN: replete lytes prn / tube feeds / consider speech & swallow eval
   # PPX: PPI, heparin SQ, lactulose
   # ACCESS: PIV x3
   # CODE: FULL
   # CONTACT: Wife [**Name (NI) **]
   # DISPO: ICU; call out to Hepatorenal Transplant floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-3-23**] 08:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: